US07786165B2
4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-carbaldehyde
To a solution of 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde (8.52 g, 37.7 mmol) and 2-chloroethyl ethyl ether (6.15 g, 56.6 mmol) in N,N-dimethylformamide (40 mL) were added potassium carbonate (6.25 g, 45.2 mmol) and potassium iodide (1.25 g, 7.54 mmol), and the mixture was stirred at 80° C. for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5%-25% ethyl acetate/hexane) to give the title compound (10.0 g, yield 89%) as a colorless oil.

reactant | 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde | 37.7 mmol, 8.52 g | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C | C15H14O2
reactant | 2-chloroethyl ethyl ether | 56.6 mmol, 6.15 g | C(C)OCCCl | C4H9ClO
reactant | potassium carbonate | 45.2 mmol, 6.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 7.54 mmol, 1.25 g | [I-].[K+]
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4′-(2-ethoxyethoxy)-2′,6′-dimethylbiphenyl-3-carbaldehyde | 10.0 g, yield 89% | C(C)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C | C19H22O3
